US07902252B2
2.16. Synthesis of 4-isobutyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (11)
The title compound was synthesized from methyl 4-isobutyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (37 mg, 0.17 mmol) and lithium hydroxide monohydrate (28 mg, 0.67 mmol) according to General Procedure 7. The crude product was dried onto Silica gel and was purified by flash chromatography (0-80% EtOAc/Heptane) to give 4-isobutyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (11) as a light yellow solid (22 mg, 63%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.94 (d, J=6.62 Hz, 3H), 0.98 (d, J=6.59 Hz, 3H), 1.23-1.32 (m, 1H), 1.40-1.48 (m, 1H), 1.73-1.84 (m, 1H), 1.89-2.01 (m, 1H), 2.53-2.76 (m, 3H), 2.95-3.05 (m, 1H), 6.59 (s, 1H); LCMS-MS (ESI−) 206.2 (M−H); HPLC (UV=100%).

reactant | methyl 4-isobutyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.17 mmol, 37 mg | C(C(C)C)C1CCC=2NC(=CC21)C(=O)OC | C13H19NO2
reactant | lithium hydroxide monohydrate | 0.67 mmol, 28 mg | O.[OH-].[Li+]
product | 4-isobutyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 22 mg, 63% | C(C(C)C)C1CCC=2NC(=CC21)C(=O)O | C12H17NO2
